US04956375
Synthesis of 4-methyl-N-(1,1,3-trimethylindan-4-yl)-1,2,3-thiadiazole-5-carboxamide
A mixture of 1.5 g (10.4 mmols) of 4-methyl-1,2,3-thiadiazole-5-carboxylic acid, 5 ml of thionyl chloride, and one drop of pyridine was refluxed for 1 hour. The resultant solution was distilled under reduced pressure to remove excess thionyl chloride. The obtained residue was dissolved in 10 ml of ethyl acetate. This solution was added to 10 ml of ethyl acetate solution of 1.7 g (9.7 mmols) of 4-amino-1,1,3-trimethylindane and 4 ml of triethylamine, and the resultant solution was stirred at room temperature for 3 hours. The resultant reaction solution was sequentially washed with water, aqueous sodium hydrogen carbonate solution, water, and a saturated brine, and then concentrated under reduced pressure. The concentrated residue was separated and purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane =1/9), to obtain 2.17 g of white crystals (Compound No. 14 shown in Table 6). The yield was 69.1%.

reactant | 4-methyl-1,2,3-thiadiazole-5-carboxylic acid | 10.4 mmols, 1.5 g | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | 4-amino-1,1,3-trimethylindane | 9.7 mmols, 1.7 g | NC1=C2C(CC(C2=CC=C1)(C)C)C | C12H17N
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 4-methyl-N-(1,1,3-trimethylindan-4-yl)-1,2,3-thiadiazole-5-carboxamide | 2.17 g, yield was 69.1% | CC=1N=NSC1C(=O)NC1=C2C(CC(C2=CC=C1)(C)C)C | C16H19N3OS
